US05696146
N-Methoxy-N-methyl-4-n-propylbenzamide
A mixture of 4-n-propylbenzoic acid (10.0 g), 1-hydroxybenzotriazole hydrate (8.20 g), 1-(3-N,N-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (21.5 g) and dichloromethane (1000 ml) was treated dropwise with triethylamine (42.6 ml) and N,O-dimethylhydroxylamine hydrochloride (6.6 g). The mixture was stirred overnight at room temperature and then treated with water (700 ml). The organic layer was separated, washed with 2N aqueous hydrochloric acid (4×500 ml) and then saturated aqueous sodium bicarbonate solution (4×500 ml). The organic phase was dried (MgSO4) and concentrated to give the title compound as a clear oil (10.8 g).

reactant | 4-n-propylbenzoic acid | 10.0 g | C(CC)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | 1-hydroxybenzotriazole hydrate | 8.20 g | O.ON1N=NC2=C1C=CC=C2
reactant | dichloromethane | 1000 ml | ClCCl | CH2Cl2
reactant | N,O-dimethylhydroxylamine hydrochloride | 6.6 g | Cl.CNOC
solvent | water | 700 ml | O | H2O
solvent | triethylamine | 42.6 ml | C(C)N(CC)CC | C6H15N
product | N-Methoxy-N-methyl-4-n-propylbenzamide | 10.8 g | CON(C(C1=CC=C(C=C1)CCC)=O)C | C12H17NO2
